US09126969B2
A solution of 550 mg of 3-[3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea in 8.5 mL of concentrated hydrochloric acid is stirred at ambient temperature for 12 hours and the medium is concentrated under vacuum in a rotary evaporator. The reaction crude is purified by preparative LC/MS, elution being carried out with a mixture of water and acetonitrile containing respectively 0.07% of trifluoroacetic acid. 183 mg of 3-[3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea in the form of a trifluoroacetate salt are isolated. 1H NMR (400 MHz, DMSO-d6, δ in ppm): 1.35 (d, J=7.0 Hz, 12H); 3.00 (m, 4H); 3.78 (m, 4H); 4.07 (m, 2H); 7.08 (broad d, J=7.5 Hz, 1H); 7.32 (broad d, J=12.0 Hz, 1H); 8.03 (s, 1H); 9.57 (s, 1H); 12.95 (broad m, 2H).

reactant | 3-[3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1-(tetrahydropyran-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea | 550 mg | FC1=CC2=C(NC(=N2)C2=NN(C=C2NC(N(C(C)C)C(C)C)=O)C2OCCCC2)C=C1N1CCOCC1 | C26H36FN7O3
solvent | hydrochloric acid | 8.5 mL | Cl | ClH
product | 3-[3-(5-fluoro-6-morpholin-4-yl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-1,1-diisopropylurea | 183 mg | FC1=CC2=C(NC(=N2)C2=NNC=C2NC(N(C(C)C)C(C)C)=O)C=C1N1CCOCC1 | C21H28FN7O2
